US05514680
Preparation of 5,6-Dinitro-7-chloro-1,4-dihydro-2,3-quinoxalinedione
To a solution of 6-nitro-7-chloro-1,4-dihydro-2,3-quinoxalinedione (120 mg, 0.50 mmol) in concentrated H2SO4 (1.0 mL) was added KNO3 (61 mg, 0.60 mmol, Baker). The mixture was stirred at 4° C. for 2 days, then ice (2 g) was added. The precipitate was collected by filtration and the solid was dissolved in 1N NaOH (5 mL) and filtered. The filtrate was acidified to pH=2 with 4N HCl (~1.2 mL) to give a yellow precipitate, which was collected by filtration and was washed with water (2×1 mL), then was dried at 50° C. for 4 h, affording crude title compound (101 mg, 70%) as a yellow powder. The crude compound (100 mg) was dissolved into acetone (2 mL) and the insoluble material was removed by centrifugation. Water (1 mL) was added to the clear solution of acetone and the resultant solution was allowed to stand at 4° C. overnight to give purer compound. Recrystallization from acetone/water again gave pure title compound (55 mg). Mp: 298°-300° C. (dec.); IR (KBr, cm-1): 3434, 3295, 3111, 2920, 1716, 1571. 1H NMR (DMSO-d6): δ12.560 (s, 1H), 12.421 (s, 1H), 7.442 (s, 1H). HRMS; calcd for C8H3ClN4O6 (M+) m/z: 285.9740, found: 285.9741.

reactant | 6-nitro-7-chloro-1,4-dihydro-2,3-quinoxalinedione | 0.50 mmol, 120 mg | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1Cl)=O)=O | C8H4ClN3O4
reactant | KNO3 | 0.60 mmol, 61 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 1.0 mL | OS(=O)(=O)O | H2O4S
product | 5,6-Dinitro-7-chloro-1,4-dihydro-2,3-quinoxalinedione | 101 mg, 70% | [N+](=O)([O-])C1=C2NC(C(NC2=CC(=C1[N+](=O)[O-])Cl)=O)=O | C8H3ClN4O6
